US05300521
a) 1,3-Dimethyl-4-iodo-5-pyrazolcarboxylic acid ethyl ester
1,3-Dimethyl-5-pyrazolcarboxylic acid ethyl ester (185 g, 1.1 mol), iodine (140 g, 0.55 mol) and HIO3 (38.7 g, 0.22 mol) are heated, under reflux, in acetic acid glacial (450 ml), water (150 ml) and 1,2-dichloroethane (150 ml) for 1.5 hours. The mixture is discoloured with saturated sodium bisulfite, evaporated under reduced pressure and the product extracted with ether. The organic phase is washed with sodium bisulfite and aqueous sodium bicarbonate solution.

reactant | 1,3-Dimethyl-5-pyrazolcarboxylic acid ethyl ester | 1.1 mol, 185 g | C(C)OC(=O)C1=CC(=NN1C)C | C8H12N2O2
reactant | iodine | 0.55 mol, 140 g | II | I2
reactant | water | 150 ml | O | H2O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid glacial | 450 ml | CC(=O)[O-]
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 1,3-Dimethyl-4-iodo-5-pyrazolcarboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(=NN1C)C)I | C8H11IN2O2
